US06884868B1
A mixture of 4-[4-[4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoic acid dihydrochloride (2.00 g) and 1-hydroxybenzotriazole (0.84 g) in methylene chloride (40 ml) was treated with triethylamine (1.44 ml) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride, and the mixture was stirred for 24 hours at ambient temperature. The reaction mixture was added to water. The organic layer was taken, washed with saturated sodium hydrogen carbonate aqueous solution, water and saturated sodium chloride aqueous solution successively, and dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. To the residue was added diisopropyl ether, and the resulting precipitate was filtered, washed with diisopropyl ether and dried under reduced pressure to give 4-[4-(4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoic acid benzotriazol-1-yl ester (2.30 g) as a dark yellow solid.

reactant | 4-[4-[4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoic acid dihydrochloride | 2.00 g | Cl.Cl.COCCCCCCOC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1
reactant | 1-hydroxybenzotriazole | 0.84 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.44 ml | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[4-(4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoic acid benzotriazol-1-yl ester | 2.30 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC=C(C=C2)N2CCN(CC2)C2=CC=C(C=C2)OCCCCCCOC)=O | C30H35N5O4
